US08420695B2
Step 1: N-(4-bromophenyl)-N-(methylsulfonyl)methanesulfonamide
4-bromoaniline (500 mg, 2.91 mmol) and triethylamine (1215 μl, 8.72 mmol) were placed in a dry flask and dichloromethane (1.45 ml) was then added. The solution was cooled to 0° C. for 20 minutes. Methanesulfonyl chloride (226 μl, 2.91 mmol) was then added dropwise and the solution was allowed to warm to room temperature overnight. It was quenched with water and aqueous sodium bicarbonate, and extracted using ethyl acetate. The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. Purification was conducted via silica gel chromatography (0-100% ethyl acetate in hexanes) to yield the title compound. 1H NMR (600 MHz, d6-DMSO): δ 7.63 (d, 2H), 7.38 (d, 2H), 3.42 (s, 6H).

reactant | 4-bromoaniline | 2.91 mmol, 500 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | triethylamine | 8.72 mmol, 1215 μl | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 2.91 mmol, 226 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 1.45 ml | ClCCl | CH2Cl2
product | N-(4-bromophenyl)-N-(methylsulfonyl)methanesulfonamide | BrC1=CC=C(C=C1)N(S(=O)(=O)C)S(=O)(=O)C | C8H10BrNO4S2
